US08084490B2
The white solid was combined with potassium phthalimide (14.4 g, 78 mmol) in DMF (250 mL) and heated to reflux for 1 h, cooled to room temperature and poured into vigorously stirring water (1.5 L) and stirred 30 min. White solid was filtered and the solid was washed several times with water, 2% NaOH, and water again and let air dry to yield a (2S)-2-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-isoindole-1,3-dione as white powdery solid.

reactant | potassium phthalimide | 78 mmol, 14.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 1.5 L | O | H2O
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
product | (2S)-2-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-isoindole-1,3-dione | O1[C@H](COC2=C1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C17H13NO4
